US04452791
A. 2-Phenylethylphosphonous acid, diethyl ester
A suspension of 4.13 g (0.172 mol) of magnesium in 45 ml of dry ether under argon was treated with a solution of 31.2 g (0.168 mol) of 1-bromo-2-phenylethane (Aldrich) in 90 ml of dry ether, added at a rate that maintained reflux. The reaction was stirred overnight at room temperature under argon, then filtered under argon, cooled to 10° C. and treated with 26.3 g (0.168 mol) of diethyl chlorophosphonite (Aldrich) dissolved in 60 ml of dry ether, added slowly to keep the temperature near 10° C. After addition, the reaction was refluxed for 1 hour, filtered under argon and distilled at 1 atm to remove ether. Vacuum distillation of the residue gave 20.6 g (54%) of the title A compound which distilled at 94°-96° C./0.55 mm Hg. The 1H-NMR and 13C-NMR of this material were both consistent with the assigned structure.

reactant | magnesium | 0.172 mol, 4.13 g | [Mg] | Mg
reactant | 1-bromo-2-phenylethane | 0.168 mol, 31.2 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | diethyl chlorophosphonite | 0.168 mol, 26.3 g | ClP(OCC)OCC | C4H10ClO2P
solvent | ether | 45 ml | CCOCC | C4H10O
solvent | ether | 90 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 2-Phenylethylphosphonous acid, diethyl ester | C1(=CC=CC=C1)CCP(OCC)OCC | C12H19O2P
